US06255327B1
e) 4-(2-hydroxyphenyl)-2-phenyl-1,3-oxazole
0.7 g of 4-(2-benzyloxyphenyl)-2-phenyl-1,3-oxazole according to step (d) are hydrogenated in 30 ml of tetrahydrofuran in the presence of 0.1 g of Pd/C catalyst at 20-60° C. (5 bar). After the catalyst has been separated off the solvent is distilled off in vacuo and the residue remaining is chromatographed on silica gel (dioxane:hexane 1:5). Yield: 0.5 g (99%);

reactant | 4-(2-benzyloxyphenyl)-2-phenyl-1,3-oxazole | 0.7 g | C(C1=CC=CC=C1)OC1=C(C=CC=C1)C=1N=C(OC1)C1=CC=CC=C1 | C22H17NO2
solvent | tetrahydrofuran | 30 ml | O1CCCC1 | C4H8O
catalyst | Pd/C | 0.1 g | [Pd] | Pd
product | 4-(2-hydroxyphenyl)-2-phenyl-1,3-oxazole | OC1=C(C=CC=C1)C=1N=C(OC1)C1=CC=CC=C1 | C15H11NO2
